US08034812B2
Production of N-[3-({2-[(chloroacetyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-3-(1-cyanocyclopropyl)benzamide
Using N-{3-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-3-(1-cyanocyclopropyl)benzamide (600 mg, 1.46 mmol), triethylamine (305 μL, 2.19 mmol), chloroacetyl chloride (202 μL, 1.75 mmol) and tetrahydrofuran (10 mL) as starting materials and in the same manner as in Example 385, the title compound (636 mg, 89%) was obtained as a gray powder.

reactant | N-{3-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-3-(1-cyanocyclopropyl)benzamide | 1.46 mmol, 600 mg | NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C2(CC2)C#N)=O)C1 | C23H18N6O2
reactant | triethylamine | 2.19 mmol, 305 μL | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 1.75 mmol, 202 μL | ClCC(=O)Cl | C2H2Cl2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N-[3-({2-[(chloroacetyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-3-(1-cyanocyclopropyl)benzamide | 636 mg, 89% | ClCC(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C2(CC2)C#N)=O)C1 | C25H19ClN6O3
